US04410536
1-Methyl-9-propyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 5, from 2.15 g of 5-hydrazino-3-methylbenzothiophene hydrochloride and 1.9 g of 1-propyl-4-piperidone. Melting point: 169° C.

reactant | 5-hydrazino-3-methylbenzothiophene hydrochloride | 2.15 g | Cl.N(N)C=1C=CC2=C(C(=CS2)C)C1
reactant | 1-propyl-4-piperidone | 1.9 g | C(CC)N1CCC(CC1)=O | C8H15NO
product | 1-Methyl-9-propyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | CC1=CSC=2C1=C1C3=C(NC1=CC2)CCN(C3)CCC | C17H20N2S
